US07626020B2
To a suspension of 4-bromobenzoic hydrazide (200 g) in industrial methylated spirit (700 ml) was added triethylorthoformate (309 ml), industrial methylated spirit (100 ml) and sulphuric acid (0.8 ml). The reaction mixture was heated to reflux for 1 hour. The reaction mixture was cooled to 0-5° C. and product crystallised. Product was isolated, washed and dried to yield 2-(4-bromophenyl)-1,3,4-oxadiazole (186.1 g, 89.9%). 400 MHz NMR Spectrum: (DMSOd6) 9.35 (s, 1H), 7.98 (d, 1H), 7.95 (d, 1H), 7.84 (d, 1H), 7.81 (d, 1H); Mass Spectrum MH+ 224.9663 (calc. using 79-Br) Found 224.9701.

reactant | 4-bromobenzoic hydrazide | 200 g | BrC1=CC=C(C(=O)NN)C=C1 | C7H7BrN2O
reactant | sulphuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | triethylorthoformate | 309 ml | C(C)OC(OCC)OCC | C7H16O3
product | 2-(4-bromophenyl)-1,3,4-oxadiazole | 186.1 g, 89.9% | BrC1=CC=C(C=C1)C=1OC=NN1 | C8H5BrN2O
